US07241791B2
Step 1: 7-chloro-2-isopropyl-3-(4-methoxy-2-methylphenyl)-2H-indazole
Prepared according to Method D step B from 7-chloro-3-(4-methoxy-2-methylphenyl)-1H-indazole (0.150 g, 0.52 mmol), sodium hydride (60% in oil, 0.025 g, 1.04 mmol) and 2-iodopropane (0.07 mL, 0.7 mmol) to give the title compound (0.059 g) as a white solid.

reactant | 7-chloro-3-(4-methoxy-2-methylphenyl)-1H-indazole | 0.52 mmol, 0.150 g | ClC=1C=CC=C2C(=NNC12)C1=C(C=C(C=C1)OC)C | C15H13ClN2O
reactant | sodium hydride | 1.04 mmol, 0.025 g | [H-].[Na+]
reactant | 2-iodopropane | 0.7 mmol, 0.07 mL | IC(C)C | C3H7I
product | 7-chloro-2-isopropyl-3-(4-methoxy-2-methylphenyl)-2H-indazole | 0.059 g | ClC1=CC=CC2=C(N(N=C12)C(C)C)C1=C(C=C(C=C1)OC)C | C18H19ClN2O
